US04628057
(1) Ethyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate
(3S)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid (32.5 g) is suspended in ethanol (500 ml) and thereto is added dropwise SOCl2 (13.0 ml) at 0° C. The mixture is refluxed for 8 hours and then distilled to remove the solvent. The residue is dissolved in water and is made alkaline with NH4OH and extracted with ethyl acetate. The extract is dried and distilled to remove the solvent. The residue is recrystallized from ethyl acetate-isopropyl ether to give the title compound (24.86 g, 68%) as colorless needles, m.p. 135°-137° C.

reactant | (3S)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid | 32.5 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | SOCl2 | 13.0 ml | O=S(Cl)Cl | Cl2OS
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | Ethyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 24.86 g, 68% | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H16N2O2
